US06448397B1
To potassium carbonate (63.89 g, 462 mmol) in water (300 mL) and CH2C2 (200 mL) is added 6-amino-m-cresol (10.0 g, 81.2 mmol) and tetra-n-butyl ammonium hydrogensulfate (0.139 g, 0.41 mmol). With vigorous stirring a solution of 2-bromoacetophenone (16.16 g, 81.2 mmol) is added dropwise over a period of 45 min. The mixture is allowed to stir overnight. The layers are then separated and the organic layer is washed with 1N NaOH (500 mL) and water (2×300 mL), dried over magnesium sulfate and concentrated. Column chromatography (400 g silica gel) using ethyl acetate/hexane (20/80) as eluent gave 8.96 g (49%) of 7-methyl-3-phenyl-2H-1,4-benzoxazine.

reactant | potassium carbonate | 462 mmol, 63.89 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-amino-m-cresol | 81.2 mmol, 10.0 g | NC=1C=CC(=CC1O)C | C7H9NO
reactant | 2-bromoacetophenone | 81.2 mmol, 16.16 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | water | 300 mL | O | H2O
catalyst | tetra-n-butyl ammonium hydrogensulfate | 0.41 mmol, 0.139 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 7-methyl-3-phenyl-2H-1,4-benzoxazine | 8.96 g, 49% | CC1=CC2=C(N=C(CO2)C2=CC=CC=C2)C=C1 | C15H13NO
